US08791255B2
The product is prepared according to the procedure described in Example 5, using 250 mg of sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate and 278 mg of 3-chloro-4-fluoroaniline in place of the 2,4-difluoroaniline. 218 mg of N-(3-chloro-4-fluorophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide are obtained in the form of a white solid, the characteristics of which are the following:

reactant | sodium [4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 250 mg | N1(CCOCC1)C=1N=C(NC(C1)=O)CC(=O)[O-].[Na+]
reactant | 3-chloro-4-fluoroaniline | 278 mg | ClC=1C=C(N)C=CC1F | C6H5ClFN
product | N-(3-chloro-4-fluorophenyl)-2-[4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetamide | 218 mg | ClC=1C=C(C=CC1F)NC(CC=1NC(C=C(N1)N1CCOCC1)=O)=O | C16H16ClFN4O3
